Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: OTOLARYNGOLOGY
 
Allergies: 
ondansetron
 
Attending: ___.
 
Chief Complaint:
mid-lower lip squamous cell carcinoma
 
Major Surgical or Invasive Procedure:
excision of mid lower lip SCC and Abbe flap reconstruction

 
History of Present Illness:
___ year-old male with ulceration of the lower lip that was noted 
at a clinic visit with Dr. ___ on ___. It has 
gradually increased in size until becoming an open wound, 
refractory to antiretroviral medications for suspected HSV 
infection. He now presents for surgical removal of lower lip 
lesion.
 
Past Medical History:
PAST ONCOLOGIC HISTORY:  
- ___: noticed hoarseness  
- Seen by Dr. ___ in ___ ENT in ___. Endoscopy  

showed a large mass in the supraglottic larynx.  
- ___: Biopsy showed squamous cell carcinoma in the  
supraglottic area. There was also involvement of the epiglottis  

and the patient underwent further staging scan including a CT  
and a PET scan.  
- ___: PET scan confirmed the FDG-avid lesions, no  
regional lymph nodes, but there was also some pre-epiglottic  
extension and also uptake in the sixth rib and L4 of uncertain  
significance  
- ___: C1D1 Cisplatin with concurrent radiation  

PAST MEDICAL HISTORY:  
Hemolytic anemia ___ s/p rituximab 
Elevated PTT with positive inhibitor screen and +LA 

 
Social History:
___
Family History:
Sister had breast and pancreatic cancer.  
 
Physical Exam:
Well-appearing, in no acute distress
Abbe flap from upper lip to lower lip intact
Incisions c/d/i
No respiratory distress, no increased work of breathing or 
accessory muscle use
 
Brief Hospital Course:
Patient had mid lower lip lesion excision - please see 
separately dictated op note for details of the procedure. 

Neuro: Patient was transitioned from IV to oral pain 
medications. Pain was well-controlled and patient was discharged 
home on liquid oxycodone.

CV: AVSS throughout admission

Resp: Stable, O2 within normal limits on room air

GI: pantoprazole was given during admission. Nutrition was 
consulted and evaluated the patient for protein and calorie 
requirements. Speech and swallow was also consulted and 
recommended the patient for a diet of thin liquids and pureed 
soft diet, which the patient was instructed to continue at 
discharge. Patinet had >700 oral intake per straw and syringe.

GU: Patinet had Foley placed in PACU for urinary retention. This 
was removed on POD1 and the patient voided independently without 
issue.

Endo: No issues

ID: The patient received perioperative antibiotics as well as 
Unasyn as an inpatient. This was converted to liquid Augmentin 
at discharge, and the patient was discharged on a 10-day 
antibiotics course.

 
Medications on Admission:
1. Acetaminophen (Liquid) 650 mg PO Q6H:PRN pain 
2. Pantoprazole 20 mg PO DAILY 

 
Discharge Medications:
1. Acetaminophen (Liquid) 650 mg PO Q6H:PRN pain 
2. OxycoDONE Liquid 5 mg PO Q4H:PRN pain 
RX *oxycodone 5 mg/5 mL 5 ml by mouth every 4 hours Refills:*0
3. Pantoprazole 20 mg PO DAILY 
4. Augmentin

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
mid lower lip squamous cell cancer

 
Discharge Condition:
stable

 
Discharge Instructions:
Eat pureed solids and thin liquids, use ensure and protein 
packets, and supplement for calorie/protein maximization as 
possible.
Augmentin liquid x10days
oxycodone liquid as needed for breakthrough pain.
Return for clinic follow-up with your surgeon as planned.
 
Followup Instructions:
___